datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2](=[S:3])[H:7])[H:6])([H:4])[H:5].[C:8](=[C:9][C:10]([H:13])([H:14])[H:15])([H:11])[H:12]>>[C:0](=[C:1]([C:2]=[S:3])[H:6])([H:4])[H:5].[H:7][C:9](=[C:8]([H:11])[H:12])[C:10]([H:13])([H:14])[H:15],-1.6736
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:25])([H:26])[H:27])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])([H:9])([H:10])[H:11].[O:28][H:29]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:25])([H:26])[H:27])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])([H:10])[H:11].[H:9][O:28][H:29],0.0
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])=[C:3]([C:4]([H:12])([H:13])[H:14])[C:5]([H:15])([H:16])[H:17])([H:6])([H:7])[H:8].[C:18](=[C:19]([H:21])[H:22])[H:20]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([C:4]([H:12])([H:13])[H:14])[C:5]([H:15])([H:16])[H:17])[C:18](=[C:19]([H:21])[H:22])[H:20])([H:6])([H:7])[H:8],14.6858
[C:0](=[C:1]([C:2](=[C:3]([H:9])[H:10])[C:4](=[C:5]([H:12])[H:13])[H:11])[H:8])([H:6])[H:7].[c:14]1[c:15]([H:20])[c:16]([H:21])[c:17]([H:22])[c:18]([H:23])[c:19]1[H:24]>>[C:0](=[C:1]([C:2]([C:3]([H:9])[H:10])([C:4](=[C:5]([H:12])[H:13])[H:11])[c:14]1[c:15]([H:20])[c:16]([H:21])[c:17]([H:22])[c:18]([H:23])[c:19]1[H:24])[H:8])([H:6])[H:7],8.24248
[O:0][O:1][H:2].[S:3][H:4]>>[H:2][S:3][H:4].[O:0][O:1],-6.397336
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])[C:4]([C:5]([C:6]([C:7](=[C:8]([C:9]([H:22])([H:23])[H:24])[C:10]([H:25])([H:26])[H:27])[H:21])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:11]>>[C:0](#[C:1][C:2]1([C:3]([H:12])([H:13])[H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]([H:19])([H:20])[C:7]([H:21])[C:8]1([C:9]([H:22])([H:23])[H:24])[C:10]([H:25])([H:26])[H:27])[H:11],67.6134
[C:0]([C:1]([C:2]1([H:11])[C:3]([H:12])=[C:4]([H:13])[C:5]([H:14])=[C:6]1[H:15])([H:9])[H:10])([H:7])[H:8]>>[C:0]([C:1]([C:2]1=[C:3]([H:12])[C:4]([H:13])=[C:5]([H:14])[C:6]1([H:11])[H:15])([H:9])[H:10])([H:7])[H:8],90.7928
[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:17])([H:15])[H:16])([H:13])[H:14])([C:6]([O:7][O:8])([H:18])[H:19])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:17])([H:15])[H:16])[H:14])([C:6]([O:7][O:8][H:13])([H:18])[H:19])[H:12])([H:9])([H:10])[H:11],76.1488
[C:0](=[C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])[H:10])([H:8])[H:9].[c:16]1[c:17]([H:22])[c:18]([H:23])[c:19]([H:24])[c:20]([H:25])[c:21]1[H:26]>>[C:0]([C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])([H:10])[c:16]1[c:17]([H:22])[c:18]([H:23])[c:19]([H:24])[c:20]([H:25])[c:21]1[H:26])([H:8])[H:9],9.70688
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8]([C:9]([c:10]1[c:11]([H:20])[c:12]([H:21])[c:13]([H:22])[c:14]([H:23])[c:15]1[H:24])[H:19])([H:16])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:6])[H:7])([H:5])[C:9]([C:8]([H:16])([H:17])[H:18])([c:10]1[c:11]([H:20])[c:12]([H:21])[c:13]([H:22])[c:14]([H:23])[c:15]1[H:24])[H:19])[H:4],40.8358
[C:0]([C:1]([O:2][H:8])([H:6])[H:7])([H:3])([H:4])[H:5].[C:9]([C:10]([H:13])([H:14])[H:15])([H:11])[H:12]>>[C:0]([C:1]([O:2][H:8])([H:6])[H:7])([H:4])[H:5].[H:3][C:9]([C:10]([H:13])([H:14])[H:15])([H:11])[H:12],56.0656
[C:0]1([H:3])[S:1][S:2]1>>[C:0]([S:1])(=[S:2])[H:3],0.0
[C:0](#[C:1][H:3])[H:2].[C:4]([C:5]([C:6]([H:16])([H:17])[H:18])[c:7]1[c:8]([H:19])[c:9]([H:20])[c:10]([H:21])[c:11]([H:22])[c:12]1[H:23])([H:13])([H:14])[H:15]>>[C:0](=[C:1][H:3])([H:2])[C:5]([C:4]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[c:7]1[c:8]([H:19])[c:9]([H:20])[c:10]([H:21])[c:11]([H:22])[c:12]1[H:23],39.748
[C:0]([H:1])([H:2])[H:3].[N:4]([H:5])[H:6]>>[C:0]([H:2])[H:3].[H:1][N:4]([H:5])[H:6],31.6729
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[S:7]=[C:8]([C:9]([S:10][H:13])[H:12])[H:11]>>[C:0](=[C:1]([S:2])[H:5])([H:3])[H:4].[H:6][C:9]([C:8](=[S:7])[H:11])([S:10][H:13])[H:12],56.9024
[C:0](=[C:1]([C:2]([S:3][H:8])[H:7])[H:6])([H:4])[H:5].[S:9]=[C:10]([S:11][H:13])[H:12]>>[C:0](=[C:1]([C:2]([S:3][H:8])([H:7])[H:13])[H:6])([H:4])[H:5].[S:9]=[C:10]([S:11])[H:12],18.828
[C:0](=[C:1]([O:2][Si:3]([O:4][C:5]([H:15])([H:16])[H:17])([O:6][C:7]([C:8]([H:20])([H:21])[H:22])([H:18])[H:19])[O:9][C:10]([C:11]([H:25])([H:26])[H:27])([H:23])[H:24])[H:14])([H:12])[H:13]>>[C:0](=[C:1]([O:2][Si:3]([O:4][C:5]([H:15])([H:16])[H:17])([O:6][H:22])[O:9][C:10]([C:11]([H:25])([H:26])[H:27])([H:23])[H:24])[H:14])([H:12])[H:13].[C:7](=[C:8]([H:20])[H:21])([H:18])[H:19],286.821568
[C:0]([C:1]([C:2]([O:3][H:10])([H:8])[H:9])([H:6])[H:7])([H:4])[H:5]>>[C:0]([C:1]([C:2]([O:3][H:10])[H:9])([H:6])[H:7])([H:4])([H:5])[H:8],117.152
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[C:12]([O:13])([H:14])([H:15])[H:16]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[H:6][O:13][C:12]([H:14])([H:15])[H:16],10.8784
